### PR TITLE
[Merged by Bors] - feat port : Algebra.Free

### PR DESCRIPTION
**Pull request by xroblot**

### CODE REVIEW

**Comment by LukasMias** [comment]
Just an FYI, I opened a thread about these file on Zulip: [here](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Algebra.2EFree). Thought these were interesting errors and worth discussing!

**Comment by LukasMias** [comment]
Okay! The simps later in the file work now. I would like to check if the added noncomputable attributes are really necessary or if the recursion for `FreeMagma.recOn` can be replaced with the current methods. I've not looked too deeply into that yet, but it's worth trying to make work I think.

**Comment by xroblot** [comment]
> Okay! The simps later in the file work now. I would like to check if the added noncomputable attributes are really necessary or if the recursion for `FreeMagma.recOn` can be replaced with the current methods. I've not looked too deeply into that yet, but it's worth trying to make work I think.

I see that `η.preserves_map` does the trick. I looked a long time for the right lemma to use but could not find it...

**Comment by xroblot** [comment]
@LukasMias, I have fixed the lint errors so there is only the trouble with 
`attribute [match_pattern] Mul.mul`
and other possible changes that you wanted to make.

**Comment by LukasMias** [comment]
Maybe commenting it out is the way to go here, if the attribute were to be added to `Mul.mul` then we couldn't do it in this file anyway. I have also not gotten further answers about this on Zulip so let's just see what reviewers say.

File: Mathlib/Algebra/Free.lean [hunk 1]
```diff
@@ -0,0 +1,764 @@
...
+
+@[to_additive (attr := ext)]
+theorem hom_ext {f g : AssocQuotient α →ₙ* β} (h : f.comp of = g.comp of) : f = g :=
+  (FunLike.ext _ _) fun x => AssocQuotient.induction_on x <| FunLike.congr_fun h
+#align magma.assoc_quotient.hom_ext Magma.AssocQuotient.hom_ext
+
+/-- Lifts a magma homomorphism `α → β` to a semigroup homomorphism `Magma.AssocQuotient α → β`
+given a semigroup `β`. -/
+@[to_additive "Lifts an additive magma homomorphism `α → β` to an additive semigroup homomorphism
+`AddMagma.AssocQuotient α → β` given an additive semigroup `β`.", simps symm_apply]
```
Comment (jcommelin) [inline Mathlib/Algebra/Free.lean:402]:
```suggestion
@[to_additive (attr := simps symm_apply) "Lifts an additive magma homomorphism `α → β` to an additive semigroup homomorphism
`AddMagma.AssocQuotient α → β` given an additive semigroup `β`."]
```

File: Mathlib/Algebra/Free.lean [hunk 2]
```diff
@@ -0,0 +1,764 @@
...
+#align free_semigroup.hom_ext FreeSemigroup.hom_ext
+
+section lift
+
+variable {β : Type v} [Semigroup β] (f : α → β)
+
+/-- Lifts a function `α → β` to a semigroup homomorphism `FreeSemigroup α → β` given
+a semigroup `β`. -/
+@[to_additive "Lifts a function `α → β` to an additive semigroup homomorphism
+`FreeAddSemigroup α → β` given an additive semigroup `β`.", simps symm_apply]
```
Comment (jcommelin) [inline Mathlib/Algebra/Free.lean:528]: Idem

File: Mathlib/Algebra/Free.lean [hunk 3]
```diff
@@ -0,0 +1,764 @@
...
+
+namespace FreeMagma
+
+section lift
+
+variable {α : Type u} {β : Type v} [Mul β] (f : α → β)
+
+/-- The universal property of the free magma expressing its adjointness. -/
+@[to_additive "The universal property of the free additive magma expressing its adjointness.",
+  simps symm_apply]
```
Comment (jcommelin) [inline Mathlib/Algebra/Free.lean:110]: Idem

File: Mathlib/Algebra/Free.lean [hunk 4]
```diff
@@ -0,0 +1,764 @@
...
+
+variable {α β : Type u}
+
+@[to_additive]
+instance : Monad FreeMagma where
+  pure := of
+  bind x f := lift f x
+
+/-- Recursor on `FreeMagma` using `pure` instead of `of`. -/
+@[elab_as_elim, to_additive "Recursor on `FreeAddMagma` using `pure` instead of `of`."]
```
Comment (jcommelin) [inline Mathlib/Algebra/Free.lean:162]: Idem

File: Mathlib/Algebra/Free.lean [hunk 5]
```diff
@@ -0,0 +1,764 @@
...
+
+/-- Embedding from magma to its free semigroup. -/
+@[to_additive "Embedding from additive magma to its free additive semigroup."]
+def of : α →ₙ* AssocQuotient α := ⟨Quot.mk _, fun _x _y ↦ rfl⟩
+#align magma.assoc_quotient.of Magma.AssocQuotient.of
+
+@[to_additive]
+instance [Inhabited α] : Inhabited (AssocQuotient α) := ⟨of default⟩
+
+@[elab_as_elim, to_additive]
```
Comment (jcommelin) [inline Mathlib/Algebra/Free.lean:385]: Idem

**Review by jcommelin — COMMENTED** [review]
Please pass attributes on to `to_additive`, otherwise the additive version will not pick them up.

File: Mathlib/Algebra/Free.lean [hunk 6]
```diff
@@ -20,87 +20,84 @@ import Mathlib.Data.List.Basic
...
+instance : Mul (FreeMagma α) := ⟨FreeMagma.mul⟩
 
-attribute [match_pattern] Mul.mul
+-- Porting note: invalid attribute 'match_pattern', declaration is in an imported module
+-- attribute [match_pattern] Mul.mul
 
-@[simp, to_additive]
-theorem mul_eq (x y : FreeMagma α) : mul x y = x * y :=
-  rfl
+-- Porting note: deleted simp attribute (simpNF lint)
```
Comment (jcommelin) [inline Mathlib/Algebra/Free.lean:66]: Please indicate exactly what the complaint of the `simpNF` linter was.

File: Mathlib/Algebra/Free.lean [hunk 7]
```diff
@@ -167,75 +155,72 @@ variable {α β : Type u}
...
+-- Porting note: added noncomputable
+protected noncomputable def recOnPure {C : FreeMagma α → Sort l} (x) (ih1 : ∀ x, C (pure x))
     (ih2 : ∀ x y, C x → C y → C (x * y)) : C x :=
   FreeMagma.recOnMul x ih1 ih2
 #align free_magma.rec_on_pure FreeMagma.recOnPure
 
-@[simp, to_additive]
-theorem map_pure (f : α → β) (x) : (f <$> pure x : FreeMagma β) = pure (f x) :=
-  rfl
+-- Porting note: deleted simp attribute (simpNF lint)
```
Comment (jcommelin) [inline Mathlib/Algebra/Free.lean:169]: Idem

File: Mathlib/Algebra/Free.lean [hunk 8]
```diff
@@ -246,114 +231,110 @@ section Category
...
-@[simp, to_additive]
+-- Porting note: deleted simp attribute (simpNF lint)
+@[to_additive]
 theorem mul_map_seq (x y : FreeMagma α) :
-    ((· * ·) <$> x <*> y : id (FreeMagma α)) = (x * y : FreeMagma α) :=
-  rfl
+    ((· * ·) <$> x <*> y : Id (FreeMagma α)) = (x * y : FreeMagma α) := rfl
 #align free_magma.mul_map_seq FreeMagma.mul_map_seq
 
+-- Porting note: TODO: fix this proof
```
Comment (jcommelin) [inline Mathlib/Algebra/Free.lean:267]: Should this stay?

File: Mathlib/Algebra/Free.lean [hunk 9]
```diff
@@ -621,198 +582,183 @@ variable {β : Type u}
...
 
-@[simp, to_additive]
-theorem traverse_eq (x) : FreeSemigroup.traverse F x = traverse F x :=
-  rfl
+@[to_additive (attr := simp)]
+theorem traverse_eq (x) : FreeSemigroup.traverse F x = traverse F x := rfl
 #align free_semigroup.traverse_eq FreeSemigroup.traverse_eq
 
-@[simp, to_additive]
+-- Porting note: deleted simp attribute (simpNF lint)
```
Comment (jcommelin) [inline Mathlib/Algebra/Free.lean:683]: What is the linters complaint?

**Review by jcommelin — CHANGES_REQUESTED** [review]

File: Mathlib/Algebra/Free.lean (hunk 9 above)
Comment (xroblot) [reply Mathlib/Algebra/Free.lean]: I have fixed the `simpNF` linter complains according to the wiki. In fact, in all cases, they are proved by `rfl` and `dsimp` cannot prove the result so I put back the `simp`. 

I do still have a problem with 
```lean
@[to_additive (attr := simp, nolint simpNF)]
theorem mul_eq (x y : FreeMagma α) : mul x y = x * y := rfl
```
The linter still complains about lemmas that I cannot find 
```
@FreeAddMagma.add.sizeOf_spec /- Left-hand side simplifies from
  sizeOf (FreeAddMagma.add a✝¹ a✝)
to
  sizeOf (a✝¹ + a✝)
using
  simp only [@FreeAddMagma.add_eq]
Try to change the left-hand side to the simplified term!
 -/
#check @FreeAddMagma.add.injEq /- Left-hand side simplifies from
  FreeAddMagma.add a✝³ a✝² = FreeAddMagma.add a✝¹ a✝
to
  a✝³ + a✝² = a✝¹ + a✝
using
  simp only [@FreeAddMagma.add_eq]
Try to change the left-hand side to the simplified term!
 -/
#check @FreeMagma.mul.injEq /- Left-hand side simplifies from
  FreeMagma.mul a✝³ a✝² = FreeMagma.mul a✝¹ a✝
to
  a✝³ * a✝² = a✝¹ * a✝
using
  simp only [@FreeMagma.mul_eq]
Try to change the left-hand side to the simplified term!
 -/
#check @FreeMagma.mul.sizeOf_spec /- Left-hand side simplifies from
  sizeOf (FreeMagma.mul a✝¹ a✝)
to
  sizeOf (a✝¹ * a✝)
using
  simp only [@FreeMagma.mul_eq]
Try to change the left-hand side to the simplified term!
 -/

Comment (LukasMias) [reply Mathlib/Algebra/Free.lean]: These seem to be autogenerated by the inductive definition, so we cannot modify them. The most meaningful thing we can do here is add a nolint attribute manually to them, since I don't think we want to remove the mul_eq lemma. I made that change.

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge

**Comment by xroblot** [comment]
The build fails with error 
`./././Mathlib/Algebra/Free.lean:51:11: error: The translation FreeMagma.mul ↦ FreeAddMagma.add already exists`
I am merging with the latest version to see where the bug comes from...  (Commenting line 51 does not seem to fix the problem so far).

**Comment by LukasMias** [comment]
> The build fails with error `./././Mathlib/Algebra/Free.lean:51:11: error: The translation FreeMagma.mul ↦ FreeAddMagma.add already exists` I am merging with the latest version to see where the bug comes from... (Commenting line 51 does not seem to fix the problem so far).

Placing `@[to_additive]` directly onto `FreeMagma` seems to work, at least locally. Hope CE finally stops complaining now :)

**Comment by xroblot** [comment]
@LukasMias Thanks for the change. It passes CI now. How do I push this PR back on the merge queue? Should I just try `bors r+`?

**Comment by LukasMias** [comment]
> @LukasMias Thanks for the change. It passes CI now. How do I push this PR back on the merge queue? Should I just try `bors r+`?

The changes were pretty minor since the last review, so it has my blessing, but I am no authority here, haha :)

**Comment by xroblot** [comment]
Nope. Didn't work
